US08119633B2
tert-Butyl 2-(3,4-dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo-[b]thiophene-3-carboxylate
tert-Butyl 2-(3,4-dichlorophenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate (21.64 g, 46.8 mmol) was dissolved in acetone (200 ml), and K2CO3 (12.9 g, 93.6 mmol) was added thereto. Methyl iodide (5.83 ml, 93.6 mmol) was then added, and the suspension was heated overnight at 40° C. After cooling to room temperature, water and saturated NaCl solution were added and the product was extracted with ethyl acetate. The organic phase was dried (sodium sulfate) and the product was purified by crystallization from methanol.

reactant | tert-Butyl 2-(3,4-dichlorophenylsulfonamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | 46.8 mmol, 21.64 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC1=C(C2=C(S1)CCCC2)C(=O)OC(C)(C)C | C19H21Cl2NO4S2
reactant | K2CO3 | 93.6 mmol, 12.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Methyl iodide | 93.6 mmol, 5.83 ml | CI | CH3I
reactant | NaCl | [Na+].[Cl-]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | tert-Butyl 2-(3,4-dichloro-N-methylphenylsulfonamido)-4,5,6,7-tetrahydrobenzo-[b]thiophene-3-carboxylate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N(C)C1=C(C2=C(S1)CCCC2)C(=O)OC(C)(C)C | C20H23Cl2NO4S2
